US07838704B2
The mixture is cooled to 50° C. and 15.5 g (0.0572 mol) crude N-(trans-3-chloro-2-propenyl)-N-methyl-1-naphthalene-methylamine, 20 ml THF and 74 mg NiCl2 (0.77 molar percent) introduced. The reaction mixture is heated at 90°-95° C. for 1 hour, cooled to 20°/25° C. and 130 ml of a 2.5% (w/v) aqueous solution of EDTA disodium salt added, the phases are separated and the aqueous phase re-extracted with 70 ml chilled toluene. The combined organic phases are washed with 2×90 ml water and concentrated to a residue, thus giving 18.2 g (greater than theoretical yield) terbinafine with a purity of 83.6% (HPLC A %).

reactant | N-(trans-3-chloro-2-propenyl)-N-methyl-1-naphthalene-methylamine | 0.0572 mol, 15.5 g | Cl/C=C/CN(CC1=CC=CC2=CC=CC=C12)C | C15H16ClN
reactant | EDTA disodium salt | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
catalyst | NiCl2 | 0.77 molar, 74 mg | Cl[Ni]Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | terbinafine | 18.2 g | CC(C)(C)C#C/C=C/CN(C)CC=1C=CC=C2C1C=CC=C2 | C21H25N
